US08471005B2
2-Methanesulfinyl-7-(2-methoxy-phenyl)-pyrrolo[2,1-f][1,2,4]triazine (75.0 mg, 0.000261 mol), N,N-Diisopropylethylamine (0.0682 mL, 0.000392 mol) and 3-(4-Methylpiperazin-1-yl)aniline (99.8 mg, 0.000522 mol) were dissolved in 2-Methoxyethanol (1.83 mL) and the reaction was heated under 300 W microwave conditions at 180° C. until HPLC showed consumption of starting material. The reaction mixture was then reduced en vacuo and the product was isolated and purified by Gilson prep HPLC to afford 8.59 mg of [7-(2-Methoxy-phenyl)-pyrrolo[2,1-f][1,2,4]triazin-2-yl]-[3-(4-methyl-piperazin-1-yl)-phenyl]-amine as lyophilated powder. (M+H)=415.18. 1H NMR (400 MHz, CDCl3) δ 10.42 (s, 1H), 8.55 (s, 1H), 7.87 (d, 1H, J=6.57 Hz), 7.52 (s, 1H), 7.30 (m, 3H), 7.18 (m, 2H), 7.09 (m, 2H), 6.57 (s, 1H), 3.84 (s, 3H), 3.55 (d, 2H, J=11.12 Hz), 3.45 (d, 2H, J=13.64 Hz), 3.18 (m, 2H), 2.90 (m, 2H), 2.86 (s, 3H).

reactant | 2-Methanesulfinyl-7-(2-methoxy-phenyl)-pyrrolo[2,1-f][1,2,4]triazine | 0.000261 mol, 75.0 mg | CS(=O)C1=NN2C(C=N1)=CC=C2C2=C(C=CC=C2)OC | C14H13N3O2S
reactant | N,N-Diisopropylethylamine | 0.000392 mol, 0.0682 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 3-(4-Methylpiperazin-1-yl)aniline | 0.000522 mol, 99.8 mg | CN1CCN(CC1)C=1C=C(N)C=CC1 | C11H17N3
solvent | 2-Methoxyethanol | 1.83 mL | COCCO | C3H8O2
product | [7-(2-Methoxy-phenyl)-pyrrolo[2,1-f][1,2,4]triazin-2-yl]-[3-(4-methyl-piperazin-1-yl)-phenyl]-amine | 8.59 mg | COC1=C(C=CC=C1)C1=CC=C2C=NC(=NN21)NC2=CC(=CC=C2)N2CCN(CC2)C | C24H26N6O
